US07763732B2
To a solution of 7-chloroindole (4.91 g, 32.4 mmol) in dimethylformamide (60 ml) at 0° C. under nitrogen was added sodium hydride (60% dispersion in mineral oil, 1.43 g, 35.6 mmol). The mixture was stirred for 1 h at room temperature. Cyclohexylmethyl bromide (5.0 ml, 35.6 mmol) was added at 0° C. The mixture was stirred for 18 h at room temperature. To the reaction mixture was added sodium hydride (60% dispersion in mineral oil, 358 mg, 8.94 mmol). After stirring for 15 mins, cyclohexylmethyl bromide (1.25 ml, 8.96 mmol) was added. The mixture was heated at 70° C. with stirring for 1.5 h. After cooling to room temperature, the mixture was partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane and combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The obtained residue was purified by column chromatography eluting with 0-5% (v/v) ethyl acetate in n-heptane to afford 7-chloro-1-cyclohexylmethylindole (8.1 g, 32.0 mmol).

reactant | 7-chloroindole | 32.4 mmol, 4.91 g | ClC=1C=CC=C2C=CNC12 | C8H6ClN
reactant | sodium hydride | 35.6 mmol, 1.43 g | [H-].[Na+]
reactant | Cyclohexylmethyl bromide | 35.6 mmol, 5.0 ml | C1(CCCCC1)CBr | C7H13Br
reactant | sodium hydride | 8.94 mmol, 358 mg | [H-].[Na+]
reactant | cyclohexylmethyl bromide | 8.96 mmol, 1.25 ml | C1(CCCCC1)CBr | C7H13Br
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 7-chloro-1-cyclohexylmethylindole | 32.0 mmol, 8.1 g | ClC=1C=CC=C2C=CN(C12)CC1CCCCC1 | C15H18ClN
